US08440658B2
To a solution of 2-((S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)ethyl methanesulfonate (273 mg, 0.68 mmol) in DMF (5 mL) was added NaN3 (133 mg, 2.04 mmol), and the mixture was refluxed overnight. The reaction was quenched with H2O, and the pH of the mixture was adjusted to >9 with 1N aq NaOH. The mixture was extracted with EtOAc (3×). The combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated to give (S)-6-(2-azidoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (219 mg, 93%). 1H NMR (CDCl3): 0.61-0.69 (s, 9H), 1.02-1.08 (d, 3H), 1.98-2.14 (m, 3H), 2.23-2.32 (m, 1H), 2.51-2.61 (m, 1H), 2.91-3.02 (m, 1H), 3.06-3.13 (m, 1H), 3.41-3.52 (m, 1H), 4.33-4.42 (m, 1H), 6.98-7.03 (m, 2H), 7.21-7.24 (m, 2H).

reactant | 2-((S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)ethyl methanesulfonate | 0.68 mmol, 273 mg | CS(=O)(=O)OCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C19H28FNO5S
reactant | NaN3 | 2.04 mmol, 133 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-6-(2-azidoethyl)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 219 mg, 93% | N(=[N+]=[N-])CC[C@@]1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C18H25FN4O2
